### PR TITLE
feat: improving bounds and restating things in the language of radial Schwartz functions

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
- [x] Corrects false decay lemmas about $I_1, \ldots, I_6$ (they only decay on the nonnegative reals, not the reals in entirety)
- [x] Restates loads of things in the language of Radial Schwartz Functions
- [x] Improves bounds on Schwartz integrals (bringing us a step closer to proving Schwartzness)

### CODE REVIEW

File: SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean [hunk 1]
```diff
@@ -0,0 +1,40 @@
...
+    calc x ^ k * rexp (-r * x)
+      _ = (k / r) ^ k * ((r * x / k) ^ k * rexp (-k * (r * x / k))) := by
+          rw [← mul_assoc, ← mul_pow]
+          congr 2
+          · field_simp
+          · field_simp
+      _ ≤ (k / r) ^ k * 1 := by
+          have := exp_decay k (x := r * x / k) (by positivity)
+          gcongr (k / r) ^ k * ?_
+      _ = (k / r) ^ k := mul_one _
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean]:
```suggestion
-- note the stronger bound (k / r * exp (-1)) ^ k is true as well but we don't need it
-- if you want it, just remove the last two bits in the grw at the end of this proof
theorem exp_neg_mul_decay (k : ℕ) {r : ℝ} (hr : 0 < r) {x : ℝ} (hx : 0 ≤ x) :
    x ^ k * exp (-r * x) ≤ (k / r) ^ k := by
  rcases Nat.eq_zero_or_pos k with rfl | hk
  · simp only [pow_zero, one_mul, Nat.cast_zero]
    exact exp_le_one_iff.2 (by nlinarith)
  calc 
    _ = ((r * x / k) * rexp (- (r * x / k)) * (k / r)) ^ k := by
      rw [mul_right_comm, mul_pow, ← Real.exp_nat_mul]
      field_simp 
    _ ≤ (k / r) ^ k := by 
      grw [Real.mul_exp_neg_le_exp_neg_one, exp_le_one_iff.2 (by simp), one_mul]

theorem exp_decay (k : ℕ) {x : ℝ} (hx : 0 ≤ x) : x ^ k * rexp (-k * x) ≤ 1 := by
  rcases Nat.eq_zero_or_pos k with rfl | hk
  · simp only [pow_zero, one_mul, Nat.cast_zero]
    exact exp_le_one_iff.2 (by nlinarith)
  grw [exp_neg_mul_decay _ (by positivity) hx, div_self (by positivity), one_pow]
```
nice work, here's a golf for you :)

Comment (b-mehta) [reply SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean]: the key thing is that I think your claude missed Real.mul_exp_neg_le_exp_neg_one

Comment (thefundamentaltheor3m) [reply SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean]: Thanks!

**Comment by thefundamentaltheor3m** [comment]
Hmm, I wonder why CI didn't catch the `public import Mathlib` in `ForMathlib.Analysis.Complex.Exponential` (which I've now removed)

File: SpherePacking/MagicFunction/a/Schwartz.lean [hunk 2]
```diff
@@ -116,98 +118,69 @@ end MagicFunction.a.SchwartzProperties
...
-namespace MagicFunction.a.SchwartzIntegrals
+namespace MagicFunction.a.RadialSchwartzIntegrals
 
-def I₁' : 𝓢(ℝ, ℂ) where
-  toFun := MagicFunction.a.RealIntegrals.I₁'
-  smooth' := MagicFunction.a.SchwartzProperties.I₁'_smooth'
-  decay' := MagicFunction.a.SchwartzProperties.I₁'_decay'
+def I₁' : 𝓢(ℝ, ℂ) := ofDecayOn (a := 1) MagicFunction.a.SchwartzProperties.I₁'_smooth' <| by
+  simp only [sub_self]
+  exact MagicFunction.a.SchwartzProperties.I₁'_decayOn
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/a/Schwartz.lean:125]: Review from Cameron's Astra: we might need to do `a = 0` (to ensure it vanishes in the right places). This needs to be reviewed.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Decay.lean [hunk 3]
```diff
@@ -0,0 +1,129 @@
...
+      rw [mul_div_assoc, mul_assoc]
+      congr 1
+      simp only [← smul_eq_mul (a := 1 / (2 * π) ^ n), ← integral_smul]
+      grind [smul_eq_mul (a := 1 / (2 * π) ^ n)]
+  _ = (n / π * rexp (-1)) ^ n * 1 / (2 * π) ^ (n + 1) * Gamma (n + 1) := by
+      rw [Gamma_eq_integral (by positivity), mul_div_assoc, mul_div_assoc,
+        show 1 / (2 * π) ^ (n + 1) = 1 / (2 * π) ^ n * 1 / (2 * π) by field,
+        mul_assoc, mul_assoc, mul_div_assoc, mul_assoc]
+      congr 2
+      -- Now this is a change of variables inside an integral
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Decay.lean:94]: Cameron's Astra believes that we can use something in `SpecialFunctions.Gamma.Basic` to golf this change of variables.

(We should probably golf this anyway... too verbose...)

File: SpherePacking/MagicFunction/a/Schwartz.lean [hunk 4]
```diff
@@ -116,98 +118,69 @@ end MagicFunction.a.SchwartzProperties
...
 noncomputable section SchwartzMap
 
-namespace MagicFunction.a.SchwartzIntegrals
+namespace MagicFunction.a.RadialSchwartzIntegrals
 
-def I₁' : 𝓢(ℝ, ℂ) where
-  toFun := MagicFunction.a.RealIntegrals.I₁'
-  smooth' := MagicFunction.a.SchwartzProperties.I₁'_smooth'
-  decay' := MagicFunction.a.SchwartzProperties.I₁'_decay'
+def I₁' : 𝓢(ℝ, ℂ) := ofDecayOn (a := 1) MagicFunction.a.SchwartzProperties.I₁'_smooth' <| by
```
Comment (cameronfreer) [inline SpherePacking/MagicFunction/a/Schwartz.lean:123]: 🤖 Astra, at the request of Cameron

Correctness: `ofDecayOn (a := 1)` multiplies the original function by `Real.smoothTransition r`. This is zero at `r = 0` and only becomes identically one for `r ≥ 1`. The same applies to all twelve constructors here and in `b/Schwartz.lean`. Thus the bundled `a`, `b`, and `g` all vanish at the origin, contrary to the required `a_zero` and `g_zero`. The existing `sorry` in `a_zero` hides this from the build.

A small repair is to weaken the decay hypothesis in `ofDecayOn`, `ofDecayOn_eqOn`, and `RadialSchwartzMap.ofDecay` from `a - 1 ≤ x` to `a ≤ x`, then use `a := 0` in these applications. The transition interval is compact, so `mkOfCocompact` does not need decay bounds there. In the existing proof, replace the use of `hC (a - 1)` to establish nonnegativity by `hC a`; the positive branch still works. The cutoff is then `smoothTransition (r + 1)`, preserving the original function for every `r ≥ 0`.

I compiled that revised constructor and its equality on `Ici 0` in an isolated snippet.

File: SpherePacking/MagicFunction/a/Schwartz.lean [hunk 5]
```diff
@@ -116,98 +118,69 @@ end MagicFunction.a.SchwartzProperties
...
-theorem a'_eq_sum_RealIntegrals : a' =
-    MagicFunction.a.RealIntegrals.I₁'
-  + MagicFunction.a.RealIntegrals.I₂'
-  + MagicFunction.a.RealIntegrals.I₃'
-  + MagicFunction.a.RealIntegrals.I₄'
-  + MagicFunction.a.RealIntegrals.I₅'
-  + MagicFunction.a.RealIntegrals.I₆' := rfl
+def a : RadialSchwartzMap ℂ ℝ⁸ ℂ := a'.toRadialSchwartzMap ℝ⁸
+
+theorem a_eq_sum_RadialSchwartzIntegrals : a =
```
Comment (cameronfreer) [inline SpherePacking/MagicFunction/a/Schwartz.lean:177]: 🤖 Astra, at the request of Cameron

After fixing the cutoff, please also restore an equality between the bundled `a` and the sum of the original `RadialFunctions.Iⱼ`, and the analogous equality for `b`. This theorem only relates the newly bundled functions to each other; the previous `a_eq_sum_integrals_RadialFunctions` / `b_eq_sum_integrals_RadialFunctions` bridges have been removed.

Application lemmas identifying each bundled integral with its original radial function should follow from `ofDecayOn_eqOn` at `‖x‖ ^ 2 ≥ 0`. They provide the connection needed to use #464's Fubini results in the new Fourier statements. The resulting equalities will need proofs rather than the old `rfl`.

File: SpherePacking/ForMathlib/RadialSchwartz/Multidimensional.lean [hunk 6]
```diff
@@ -9,45 +9,38 @@ public import Mathlib.Analysis.Distribution.SchwartzSpace.Deriv
...
+@[simps!]
+def ofDecayOn {f : ℝ → ℂ} {a : ℝ}
     (smooth : ContDiff ℝ ∞ f)
     (decay : ∀ (k n : ℕ), ∃ (C : ℝ), ∀ x, a - 1 ≤ x → ‖x‖ ^ k * ‖iteratedFDeriv ℝ n f x‖ ≤ C) :
-    ∃ F : 𝓢(ℝ, ℂ), Set.EqOn f F (Set.Ici a) := by
+    𝓢(ℝ, ℂ) :=
   let F' : ℝ → ℂ := fun x ↦ Real.smoothTransition (x - a + 1) * f x
-  refine ⟨SchwartzMap.mkOfCocompact F' (by fun_prop) ?_, ?_⟩
-  · intro k n
+  SchwartzMap.mkOfCocompact F' (by fun_prop) <| by
```
Comment (cameronfreer) [inline SpherePacking/ForMathlib/RadialSchwartz/Multidimensional.lean:42]: 🤖 Astra, at the request of Cameron

Proof simplification: in each of the two branches below, establish that `F'` locally equals `0` or `f`, then use `Filter.EventuallyEq.iteratedFDeriv`. For example, after obtaining `hEq : F' =ᶠ[𝓝 x] f`,

```lean
rw [(hEq.iteratedFDeriv ℝ n).self_of_nhds]
```

replaces the positive branch's round trip through `iteratedFDerivWithin`. The zero branch works the same way. The local equalities come from `eventually_lt_nhds` / `eventually_gt_nhds` and the cutoff's zero/one lemmas. Using `max C 0` as the bound also makes the zero branch immediate.

I compiled this shorter proof with the weaker decay hypothesis described in the cutoff comment.

File: SpherePacking/MagicFunction/a/IntegralEstimates/Decay.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+        ∫ s in Ici (0 : ℝ), 1 / (2 * π) ^ n * rexp (-2 * π * s) * (2 * π * s) ^ n := by
+      congr with s
+      field
+  _ = (n / π * rexp (-1)) ^ n * 1 / (2 * π) ^ n *
+        ∫ s in Ici (0 : ℝ), rexp (-2 * π * s) * (2 * π * s) ^ n := by
+      rw [mul_div_assoc, mul_assoc]
+      congr 1
+      simp only [← smul_eq_mul (a := 1 / (2 * π) ^ n), ← integral_smul]
+      grind [smul_eq_mul (a := 1 / (2 * π) ^ n)]
+  _ = (n / π * rexp (-1)) ^ n * 1 / (2 * π) ^ (n + 1) * Gamma (n + 1) := by
```
Comment (cameronfreer) [inline SpherePacking/MagicFunction/a/IntegralEstimates/Decay.lean:89]: 🤖 Astra, at the request of Cameron

The manual rescaling/Gamma calculation from line 79 onward can be replaced using `Real.integral_rpow_mul_exp_neg_mul_Ioi`. This helper compiled in an isolated snippet with the project's mathlib:

```lean
open Real MeasureTheory Set in
lemma integral_exp_mul_pow_Ici (n : ℕ) {b : ℝ} (hb : 0 < b) :
    (∫ s in Ici (0 : ℝ), exp (-b * s) * s ^ n) =
      (n.factorial : ℝ) / b ^ (n + 1) := by
  rw [integral_Ici_eq_integral_Ioi]
  have h := Real.integral_rpow_mul_exp_neg_mul_Ioi (a := (n : ℝ) + 1) (by positivity) hb
  rw [Real.rpow_add (by positivity), Real.rpow_natCast, Real.rpow_one] at h
  simpa [Real.rpow_natCast, neg_mul, Real.Gamma_nat_eq_factorial,
    pow_succ, one_div, inv_pow, div_eq_mul_inv, mul_comm, mul_left_comm, mul_assoc] using h
```

Specializing to `b := 2 * π` gives the moment integral in the preceding line. This removes the custom derivative, injectivity, image-of-ray, and change-of-variables arguments.

**Review by cameronfreer — COMMENTED** [review]
🤖 Astra, at the request of Cameron

The radial Schwartz formulation and the Fourier involution simplifications are useful. There is one correctness issue to fix before merging: the cutoff currently changes the functions on the unit ball and forces their value at the origin to be zero. The inline comments give a small constructor repair, the missing equalities with the original integrals, and two proof simplifications.

Validation: I checked the current head, reproduced the cutoff-at-zero calculation, and compiled the revised constructor/equality theorem and Gamma-integral helper in isolated Lean snippets. The shorter derivative proof also compiled (with one unnecessary-`simpa` warning); I did not rebuild the full PR.

One additional stack integration suggestion: once #463 is available, reuse its phase identities in `I₃'_smooth'` rather than rederiving the parametrisation identity there. The optional cleanup comments are lower priority than the cutoff and integral equalities.

File: SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean [hunk 8]
```diff
@@ -0,0 +1,39 @@
...
+    exact exp_le_one_iff.2 (by nlinarith)
+  calc
+    _ = ((r * x / k) * rexp (- (r * x / k)) * (k / r)) ^ k := by
+      rw [mul_right_comm, mul_pow, ← Real.exp_nat_mul]
+      field_simp
+    _ ≤ (k / r * exp (-1)) ^ k := by
+      grw [Real.mul_exp_neg_le_exp_neg_one]
+      grind
+
+theorem exp_decay (k : ℕ) {x : ℝ} (hx : 0 ≤ x) : x ^ k * rexp (-k * x) ≤ 1 := by
```
Comment (cameronfreer) [inline SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean:32]: 🤖 Astra, at the request of Cameron

Optional cleanup: `Real.exp_decay` currently has no callers in this PR's tree; consider omitting the specialization unless a caller is planned. `exp_neg_mul_decay` is the one used in `Decay.lean`.

Also, this file's results are about real exponentials, so its `Analysis/Complex/Exponential` path and “complex exponential” module heading could be made more descriptive. Bhavik's earlier golf is already incorporated.

File: SpherePacking/ForMathlib/RadialSchwartz/Basic.lean [hunk 9]
```diff
@@ -46,6 +48,17 @@ lemma even [SeminormedAddGroup E] {f : E → F} (hf : f.IsRadial) : f.Even := fu
...
+end IsRadial
+section Norm
+
+open IsRadial
+
+lemma RCLike.normSq_radial {K : Type*} [RCLike K] : IsRadial (RCLike.normSq (K := K)) := by
+  intro _ _ _
+  simpa [RCLike.normSq_eq_def']
+
+lemma Complex.normSq_radial : IsRadial (Complex.normSq) := RCLike.normSq_radial
```
Comment (cameronfreer) [inline SpherePacking/ForMathlib/RadialSchwartz/Basic.lean:60]: 🤖 Astra, at the request of Cameron

Optional cleanup: neither this complex specialization nor `RCLike.normSq_radial` above has a caller in the current PR tree. `toRadialSchwartzMap` uses `isRadial_norm_sq` instead. Consider dropping these two declarations unless they are intended for an imminent consumer.

Comment (thefundamentaltheor3m) [reply SpherePacking/ForMathlib/RadialSchwartz/Basic.lean:60]: Being handled in a Mathlib PR

File: SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean [hunk 10]
```diff
@@ -0,0 +1,39 @@
...
+  rcases Nat.eq_zero_or_pos k with rfl | hk
+  · simp only [pow_zero, one_mul, Nat.cast_zero]
+    exact exp_le_one_iff.2 (by nlinarith)
+  grw [exp_neg_mul_decay _ (by positivity) hx, div_self (by positivity),
```
Comment (seewoo5) [inline SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean:36]: Is `exp_neg_mul_decay` only used here? I wonder if we can merge two into one then.

Comment (cameronfreer) [reply SpherePacking/ForMathlib/Analysis/Complex/Exponential.lean:36]: I think it is used elsewhere. Here's what 🤖 astra suggested:

> `exp_neg_mul_decay` is also used by `pow_mul_integral_le` in this PR’s Decay.lean, and by #476’s `pow_mul_norm_le_of_exp_bound`. Could we keep that general lemma and remove the unused `exp_decay` specialization instead?
